datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN1C=C[N+](C)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].C[S+:61](C)[CH-:10][C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:83]=[CH:82]1>>CN1C=C[N+](C)=C1[C:22](=[CH:21][CH:20]([CH:10]([S+:61](C)C)[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:83]=[CH:82]1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1.[N:10](=[O:61])[O-:71]>>C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([N+:10](=[O:61])[O-:71])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1 10=20
"C1CC[C:11]([N:12]2CCCC2)=[CH:10]C1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH2:20][CH:10]1CCCC[C:11]1=[N+:12]1CCCC1)[Co-3:42]32(C#[O+])(C#[O+])C#[O+] 10,11=10,20;12=11,12"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1.[O+]#C[Re-5:11](C#[O+])(C#[O+])(C#[O+])([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:10]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21](C[N+]2=CC=C(N(C)C)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1.[O+]#C[Re-4:11](C#[O+])(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;20,21=21,22;22,23=23"
"CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=C(C#N)C=C2)=[C:11]([O-:12])[O:82]1.Cl[C:31]1=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41](Cl)[C:20]1=[O:21]>>CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=C(C#N)C=C2)([C:20]2([O-:21])[C:31](Cl)=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41]2Cl)[C:11](=[O:12])[O:82]1 10,11=10,20;12=11,12;20,21=21"
"C[SiH:11]([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1.Cl[C:44]1=[CH:43][CH:42]=[C:41]([C+:20]2CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1>>C[SiH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1.Cl[C:44]1=[CH:43][CH:42]=[C:41]([C:20]2([H:10])CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1 10,11=10,20"
"C1=CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[N:12]2/[CH:11]=[CH:10]/C2=CC=CC=C2)C=C1.C1CC[C:21](=[O:20])C1>>C1=CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[N+:12]2=[CH:11][CH:10](C2=CC=CC=C2)[O:20][C-:21]2CCCC2)C=C1 10,11=10,20;12=11,12;20,21=21"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.FC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC[N:14]1[C:13]1=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]1>>FC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC[N+:14]1=[C:13]1[CH:12]=[CH:11][N:10]([CH:20]([CH:21]=[CH:22][N:23]2CCCCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:61]=[CH:62]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CC(C)(C)[Si:63](C)(C)[CH2:62][CH:11]=[CH2:10].C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1>>CC(C)(C)[Si:63](C)(C)[CH2:62][CH+:11][CH2:10][CH:20]([O:21]C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1 10,11=10,20;20,21=21"
"C1CC[N:12]([C:11]2=[CH:10]CCC2)CC1.CC[O:33][C:22]([C:21](C)=[CH2:20])=[O:23]>>CC[O:33][C:22](=[C:21](C)[CH2:20][CH:10]1CCC[C:11]1=[N+:12]1CCCCC1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.C[N:14]1[CH:10]=[CH:11][CH:12]=[CH:13]1>>C[N+:14]1=[CH:13][CH:12]=[CH:11][CH:10]1[C:20]1([C:41]2=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]2)CC[CH:32]=[CH:31]1 10,11=10,20;12,13=11,12;14=13,14"
"C1=CC=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])C=C1.Cl[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([S-:10])=[CH:62]1>>Cl[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([S:10][CH:20]([CH:21]=[C:22](C2=CC=CC=C2)[O-:23])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[CH:62]1 10=20;20,21=21,22;22,23=23"
"CC(C)(C)O[C:62]([NH:61][NH2:10])=[O:63].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]23CCC(CC2)CC3)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH2+:10][NH:61][C:62](OC(C)(C)C)=[O:63])[C:21](C[N+]23CCC(CC2)CC3)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[N:10](C)[NH:61]C>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([N+:10](C)(C)[NH:61]C)[C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
CO[C:62]([CH:61]1CCC[NH:10]1)=[O:63].F[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CO[C:62]([CH:61]1CCC[NH+:10]1[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1)=[O:63] 10=20
